US06660753B2
A mixture of 3-(5-tert-butoxycarbonylpyrid-2-yl)-5-(3-bromophenyl)-1,2,4-oxadiazole (100 mg, 0.25 mmol) in formic acid (98%, 6 mL) was heated at 45° C. for 23 hours. Evaporation of the solvent in vacuo followed by trituration with dichloromethane afforded 3-(5-hydroxycarbonylpyrid-2-yl)-5-(3-bromophenyl)-1,2,4-oxadiazole (65.4 mg, 76%) as a white solid.

reactant | 3-(5-tert-butoxycarbonylpyrid-2-yl)-5-(3-bromophenyl)-1,2,4-oxadiazole | 0.25 mmol, 100 mg | C(C)(C)(C)OC(=O)C=1C=CC(=NC1)C1=NOC(=N1)C1=CC(=CC=C1)Br | C18H16BrN3O3
solvent | formic acid | 6 mL | C(=O)O | CH2O2
product | 3-(5-hydroxycarbonylpyrid-2-yl)-5-(3-bromophenyl)-1,2,4-oxadiazole | 65.4 mg, 76% | OC(=O)C=1C=CC(=NC1)C1=NOC(=N1)C1=CC(=CC=C1)Br | C14H8BrN3O3
